US07122666B2
(2S,8aS)-2-Propyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one
In a similar manner to the procedures described in Preparative Examples 8(ii)′, 8(iii)′, 8(iv)′, 8(v)′ and 8(vi)′ above, reactions were conducted in turn, using (S)-1-benzyloxycarbonyl-4-propylideneproline methyl ester [prepared as described in Preparative Example 25′ above] instead of (S)-1-benzyloxycarbonyl-4methylideneproline methyl ester, to give the title compound as a brown oil (yield: 24%).

reactant | (S)-1-benzyloxycarbonyl-4-propylideneproline methyl ester | COC([C@H]1N(CC(C1)=CCC)C(=O)OCC1=CC=CC=C1)=O | C17H21NO4
reactant | (S)-1-benzyloxycarbonyl-4methylideneproline methyl ester | COC([C@H]1N(CC(C1)=C)C(=O)OCC1=CC=CC=C1)=O | C15H17NO4
product | (2S,8aS)-2-Propyl-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | yield: 24% | C(CC)[C@H]1C[C@H]2CC(CCN2C1)=O | C11H19NO
